US08466186B2
(a) 2-Chloro-4-fluoro-5-nitrobenzonitrile
Fuming HNO3 (2.9 mL, 64 mmol) was added dropwise to a solution of 2-chloro-4-fluorobenzonitrile (5.0 g, 32 mmol) in conc. H2SO4 (5 mL) at 0° C. The mixture was stirred at 0° C. for 15 min and at rt for 30 min whereafter it was poured into ice. The precipitate was filtered off, washed with water and dried under vacuum.

reactant | HNO3 | 64 mmol, 2.9 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-4-fluorobenzonitrile | 32 mmol, 5.0 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
solvent | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
product | 2-Chloro-4-fluoro-5-nitrobenzonitrile | ClC1=C(C#N)C=C(C(=C1)F)[N+](=O)[O-] | C7H2ClFN2O2
